US07737136B2
Nitric acid (50 μL, 1.10 mmol) was added at 0° C. to a suspension of trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (210 mg, 0.53 mmol) in 4 mL of CH2Cl2. After stirring the mixture was extracted with ethyl acetate and the organic layer was washed with 5% aq. sodium bicarbonate, dried (Na2SO4) and evaporated to give trans-N-(7-chloro-8-nitro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide (219 mg, 90%). Data: 1H-NMR (400 MHz, DMSO) 1.64-1.94 (m, 3H), 2.05 (br, 1H), 3.26 (t, J=8.0, 1H), 4.20 (d, J=8.0, 1H), 4.35 (d, J=8.0, 1H), 4.60 (dq, J=8.0, 3.0, 1H) 7.15 (m, 1H), 7.11-9.21 (6 ArH). (m/z)=443 (M+H)+.

reactant | Nitric acid | 1.10 mmol, 50 μL | [N+](=O)(O)[O-] | HNO3
reactant | trans-N-(7-chloro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 0.53 mmol, 210 mg | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1 | C19H16ClF3N2O2
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | trans-N-(7-chloro-8-nitro-2,3,4,14b-tetrahydro-1H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)-2,2,2-trifluoroacetamide | 219 mg, 90% | ClC1=CC2=C(OC3=C([C@H]4N2CCC[C@H]4NC(C(F)(F)F)=O)C=CC=C3)C=C1[N+](=O)[O-] | C19H15ClF3N3O4
